US08232284B2
5-(2,2-diethoxyethoxy)-2-fluoropyridine (502 mg, 2.19 mmol) and potassium tert-butoxide (279 mg, 2.49 mmol) were added to an N,N-dimethylacetamide solution (1 ml) of 4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-ol (240 mg, 1.00 mmol), and stirred at 170° C. for 15 hours under a nitrogen atmosphere in a sealed tube. The reaction solution was cooled to room temperature, then water was added, and extracted with chloroform. The organic layer was washed with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (Biotage, chloroform:methanol=100:3) to obtain 6-{[5-(2,2-diethoxyethoxy)pyridin-2-yl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)quinazoline-4-amine (292 mg, yield: 65%) as a brown oil.

reactant | 5-(2,2-diethoxyethoxy)-2-fluoropyridine | 2.19 mmol, 502 mg | C(C)OC(COC=1C=CC(=NC1)F)OCC | C11H16FNO3
reactant | potassium tert-butoxide | 2.49 mmol, 279 mg | CC(C)([O-])C.[K+]
reactant | N,N-dimethylacetamide | 1 ml | CN(C(C)=O)C | C4H9NO
reactant | 4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-ol | 1.00 mmol, 240 mg | CN1N=C(C=C1)NC1=NC=NC2=CC=C(C=C12)O | C12H11N5O
solvent | water | O | H2O
product | 6-{[5-(2,2-diethoxyethoxy)pyridin-2-yl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)quinazoline-4-amine | 292 mg, yield: 65% | C(C)OC(COC=1C=CC(=NC1)OC=1C=C2C(=NC=NC2=CC1)NC1=NN(C=C1)C)OCC | C23H26N6O4
